US04485112
1-methyl-4[(benzofuran-2-yl)(phenyl)methyl]piperazine
25.4 g of α(benzofuran-2-yl)benzyl chloride dissolved in 150 ml of dioxane are added slowly at about 60°-70° C. to 26 g of 1-methyl-piperazine in 150 ml of dioxane. After the addition, the mixture is stirred at about 70° C. for a further two hours. The solvent is removed under reduced pressure, the residue is then dissolved in 5% sodium bicarbonate and extracted with ethyl ether. After washing the ether phase with water and drying with sodium sulphate, the hydrochloride is precipitated by bubbling in anhydrous hydrochloric acid gas: M.P. 186°-188° C. (isopropanol).

reactant | α(benzofuran-2-yl)benzyl chloride | 25.4 g | O1C(=CC2=C1C=CC=C2)C(C2=CC=CC=C2)Cl | C15H11ClO
reactant | 1-methyl-piperazine | 26 g | CN1CCNCC1 | C5H12N2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 1-methyl-4[(benzofuran-2-yl)(phenyl)methyl]piperazine | CN1CCN(CC1)C(C1=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C20H22N2O
